US09102623B2
A15.2) 6-[Chloro(difluoro)methyl]-N-(1-ethylpropyl)-5-iodo-2-oxo-1,2-dihydropyridine-3-carboxamide
At room temperature, 400 mg (1.1 mmol) of methyl 6-[chloro(difluoro)methyl]-5-iodo-2-oxo-1,2-dihydropyridine-3-carboxylate were dissolved in 5 ml of acetonitrile and stirred with 0.5 ml of 3-pentylamine for 12 h. The reaction mixture was then added to 1N of hydrochloric acid, and the resulting precipitate was filtered off with suction and washed with water. Drying gave 370 mg (72% of theory) of the product.

reactant | methyl 6-[chloro(difluoro)methyl]-5-iodo-2-oxo-1,2-dihydropyridine-3-carboxylate | 1.1 mmol, 400 mg | ClC(C1=C(C=C(C(N1)=O)C(=O)OC)I)(F)F | C8H5ClF2INO3
reactant | 3-pentylamine | 0.5 ml | CCC(CC)N | C5H13N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 6-[Chloro(difluoro)methyl]-N-(1-ethylpropyl)-5-iodo-2-oxo-1,2-dihydropyridine-3-carboxamide | ClC(C1=C(C=C(C(N1)=O)C(=O)NC(CC)CC)I)(F)F | C12H14ClF2IN2O2
